US09216968B2
Methyl 2-(methylsulfanyl)-1H-benzimidazole-4-carboxylate
To a solution of methyl 2-sulfanyl-1H-benzimidazole-4-carboxylate (prepared as described in WO2003/106430) (1.0 g) in DMF (15 mL), were added potassium carbonate (700 mg) and methyl iodide (0.32 mL), and the mixture was stirred at room temperature for 3 days. The reaction mixture was diluted with ethyl acetate, washed with brine, dried over anhydrous magnesium sulfate, and concentrated under reduced pressure. The residue was purified on column chromatography to obtain the titled compound (860 mg) as white powder.

reactant | methyl 2-sulfanyl-1H-benzimidazole-4-carboxylate | 1.0 g | SC1=NC2=C(N1)C=CC=C2C(=O)OC | C9H8N2O2S
reactant | potassium carbonate | 700 mg | C([O-])([O-])=O.[K+].[K+]
reactant | methyl iodide | 0.32 mL | CI | CH3I
solvent | DMF | 15 mL | CN(C)C=O | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | Methyl 2-(methylsulfanyl)-1H-benzimidazole-4-carboxylate | 860 mg | CSC1=NC2=C(N1)C=CC=C2C(=O)OC | C10H10N2O2S
